US05624943
3-{6-[2-(4-Carboxyphenyl)-ethinyl]-3-[(3RS)-3,7-dimethyl-6-octenyloxy]-2-pyridyl}-propionic acid
Under the conditions of example 3 C, 500 mg of 3-{6-[2-(4-methoxy-carbonylphenyl)-ethinyl]-3-[(3RS)-3,7-dimethyl-6-octenyloxy]-2-pyridyl}-propionic acid methyl ester in 10 ml of methanol is saponified with 7.2 ml of 2n sodium hydroxide solution and worked up. 437 mg of the title compound of melting point 154°-156° C. is obtained.

reactant | 3-{6-[2-(4-methoxy-carbonylphenyl)-ethinyl]-3-[(3RS)-3,7-dimethyl-6-octenyloxy]-2-pyridyl}-propionic acid methyl ester | 500 mg | COC(CCC1=NC(=CC=C1OCCC(CCC=C(C)C)C)C#CC1C(C=C(C=C1)OC)=C=O)=O | C29H35NO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
product | 3-{6-[2-(4-Carboxyphenyl)-ethinyl]-3-[(3RS)-3,7-dimethyl-6-octenyloxy]-2-pyridyl}-propionic acid | 437 mg | C(=O)(O)C1=CC=C(C=C1)C#CC1=CC=C(C(=N1)CCC(=O)O)OCCC(CCC=C(C)C)C | C27H31NO5
